US07393848B2
After dissolving 0.36 g (1 mmole) [6-(3-amino-phenyl)-imidazo[1,2-a]pyrazin-8-yl]-benzothiazol-6-yl-amine in 20 mL anhydrous THF, 3 equivalents of triethylamine are added and the reaction solution is cooled to 0° C. A solution of 0.2 g of 4-tert-butyl-benzoyl chloride (1 mmole) in 5 mL THF is added dropwise to the 0° C. reaction solution under N2. The ice bath is removed and the reaction is allowed to warm slowly to rt for 1 hr. Diethyl ether is then added slowly to the reaction solution and the resulting solid filtered and washed with diethyl ether to provide pure N-{3-[8-(benzothiazol-6-ylamino)-imidazo[1,2-a]pyrazin-6-yl]-phenyl}-4-tert-butyl-benzamide.

reactant | [6-(3-amino-phenyl)-imidazo[1,2-a]pyrazin-8-yl]-benzothiazol-6-yl-amine | 1 mmole, 0.36 g | NC=1C=C(C=CC1)C=1N=C(C=2N(C1)C=CN2)NC2=CC1=C(N=CS1)C=C2 | C19H14N6S
reactant | triethylamine | 3 equivalents | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butyl-benzoyl chloride | 1 mmole, 0.2 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-{3-[8-(benzothiazol-6-ylamino)-imidazo[1,2-a]pyrazin-6-yl]-phenyl}-4-tert-butyl-benzamide | S1C=NC2=C1C=C(C=C2)NC=2C=1N(C=C(N2)C=2C=C(C=CC2)NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=CN1 | C30H26N6OS
